US05739129
(2-Nitro-phenyl)-pyrimidin-2-yl-amine
To a solution of 2-aminopyrimidine (10 g, 105 mmol) in DMF (100 mL) cooled to 5° C. was added 60% sodium hydride in mineral oil (5.47 g, 137 mmol) and the resulting mixture was stirred one hour with cooling. 1-fluoro-2-nitrobenzene (14.83 g, 105 mmol) in DMF (30 mL) was added dropwise over a 20 minute period to the cooled, stirring solution. The solution was allowed to warm slowly to ambient temperature and stirred 3 h. The product was precipitated with the addition of water (300 mL), separated by filtration, and dried to give the title compound (13.39 g, 61.9 mmol) as an orange solid: 1H NMR (Acetone-d6, 400 MHz): 10.34 (br s, 1H), 9.00 (d, 1H, J=8.6 Hz), 8.60 (d, 2H, J=4.8 Hz), 8.23 (d, 1H, J=8.4 Hz), 7.74 (t, 1H), 7.17 (t, 1H), 7.06 (t, 1H); TLC (EtOAc/Hexanes (3:17)): Rf =0.27.

reactant | 2-aminopyrimidine | 105 mmol, 10 g | NC1=NC=CC=N1 | C4H5N3
reactant | sodium hydride | [H-].[Na+]
reactant | 1-fluoro-2-nitrobenzene | 105 mmol, 14.83 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (2-Nitro-phenyl)-pyrimidin-2-yl-amine | 61.9 mmol, 13.39 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=NC=CC=N1 | C10H8N4O2
